US04722929
8-(2-Methoxy-5-methylmercapto-phenyl)-purin-6-one
Prepared analogously to Example 16 from 6-chloro-8-(2-methoxy-5-methylmercapto-phenyl)-purine by reaction with 20% potassium hydroxide solution.

reactant | 6-chloro-8-(2-methoxy-5-methylmercapto-phenyl)-purine | ClC1=C2NC(=NC2=NC=N1)C1=C(C=CC(=C1)SC)OC | C13H11ClN4OS
reactant | potassium hydroxide | [OH-].[K+]
product | 8-(2-Methoxy-5-methylmercapto-phenyl)-purin-6-one | COC1=C(C=C(C=C1)SC)C1=NC2=NC=NC(C2=N1)=O | C13H10N4O2S
